US07304076B2
Step 1. Synthesis of 1-Methylsulfonyl-4-piperidone
To a stirred solution of 4-piperidone hydrate hydrochloride (40.00 g, 0.260 mol) and THF (320 ml) was added CH3SO2Cl (31.0 ml, 0.402 mol) and 15% aq. NaOH (156 ml) such that the temperature of the reaction mixture was maintained at 26-32° C. After this addition, the reaction mixture was stirred at RT for 2 hours and transferred to a separatory funnel. The organic layer was collected and the aqueous layer was extracted with THF (2×250 ml). The combined organic layers were dried over Na2SO4. After filtration, the concentrated residue was washed with hexane to give the product (46.0 g, 100%). 1H NMR (CDCl3) δ 3.59 (t, J=6.00 Hz, 4H), 2.89 (s, 15 3H), 2.59 (t, J=5.6 Hz, 4H).

reactant | 4-piperidone hydrate hydrochloride | 0.260 mol, 40.00 g | Cl.O.N1CCC(CC1)=O
reactant | CH3SO2Cl | 0.402 mol, 31.0 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | NaOH | 156 ml | [OH-].[Na+]
solvent | THF | 320 ml | C1CCOC1 | C4H8O
product | 1-Methylsulfonyl-4-piperidone | 46.0 g, 100% | CS(=O)(=O)N1CCC(CC1)=O | C6H11NO3S
